US05514815
To a solution of potassium t-butoxide (16.8 g) in t-butyl alcohol (150 ml) is added dropwise with stirring a solution of benzaldehyde (15.9 g) and succinic acid dimethyl ester (26.3 g) in t-butyl alcohol (20 ml) at room temperature, and the mixture is stirred for 30 minutes. The reaction mixture is poured into ice-water (200 ml), and the mixture is extracted with isopropyl ether. The pH value of the aqueous layer is adjusted to pH 2-3, and the mixture is extracted with ethyl acetate. The ethyl acetate layer is washed, dried, and evaporated to remove the solvent. The residue is dissolved in methanol (75 ml), and thereto is added dropwise thionyl chloride (10.9 ml) under ice-cooling. The mixture is allowed to stand at room temperature overnight, and then evaporated to remove the solvent. To the residue is added isopropyl ether, and the mixture is washed, dried, and evaporated to remove the solvent. The resulting residue is distilled under reduced pressure to give (E)-3-methoxycarbonyl-4-phenyl-3-butenoic acid methyl ester (23.2 g) as colorless oil.

reactant | potassium t-butoxide | 16.8 g | CC(C)([O-])C.[K+]
reactant | benzaldehyde | 15.9 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | succinic acid dimethyl ester | 26.3 g | COC(CCC(=O)OC)=O | C6H10O4
solvent | t-butyl alcohol | 150 ml | C(C)(C)(C)O | C4H10O
solvent | t-butyl alcohol | 20 ml | C(C)(C)(C)O | C4H10O
product | (E)-3-methoxycarbonyl-4-phenyl-3-butenoic acid methyl ester | 23.2 g, Yield: 66% | COC(C/C(=C\C1=CC=CC=C1)/C(=O)OC)=O | C13H14O4
